US07338958B2
Production of (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]pyrimidin-2-yl}amino)phenyl]-N-(ethoxycarbonyl)-S-methyl sulfoximide
600 mg (2.48 mmol) of (RS)-S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methyl sulfoximide and 610 mg (2.07 mmol) of (R)-3-[(5-bromo-2-chloropyrimidin-4-yl)amino]-2-methyl-butan-2-ol in 8 ml of acetonitrile are mixed with 0.52 ml of water and 0.52 ml of a 4N solution of HCl in dioxane. The batch is stirred for 24 hours at 60° C. and then concentrated by evaporation. The remaining residue is purified by chromatography (DCM/EtOH 8:2). 649 mg (1.30 mmol, corresponding to 53% of theory) of the product is obtained.

reactant | (RS)-S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methyl sulfoximide | 2.48 mmol, 600 mg | NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C | C10H14N2O3S
reactant | (R)-3-[(5-bromo-2-chloropyrimidin-4-yl)amino]-2-methyl-butan-2-ol | 2.07 mmol, 610 mg | BrC=1C(=NC(=NC1)Cl)N[C@@H](C(C)(O)C)C | C9H13BrClN3O
reactant | water | 0.52 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]pyrimidin-2-yl}amino)phenyl]-N-(ethoxycarbonyl)-S-methyl sulfoximide | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C)N[C@@H](C(C)(C)O)C | C19H26BrN5O4S
